US05047518
1,6-Anhydro-4-O-benzyl-2,3-dideoxy-2-C-methyl-β-D-ribo-hexopyranose
A solution of 1,6-anhydro-4-O-benzyl-2-deoxy-2-C-methyl-β-D-glucopyranose (Tetrahedron Lett. 22 (1981) 4315-4318) (0.280 g) in dry THF (10 ml) was stirred while sodium hydride (1.2 eq) was added slowly. When effervescence had ceased, a large excess (>10 eq) of carbon disulphide was added and the solution was stirred at room temperature for 0.5 h. Methyl iodide (5 eq) was then added and the solution was stirred a further 0.5 h at room temperature. Ether (50 ml) was added and the mixture was washed with water. The aqueous washings were back extracted with ether and the combined ether extracts were washed with saturated aqueous sodium chloride and then dried (MgSO4) and concentrated to a light yellow syrup. This was dissolved in toluene (25 ml) and heated under reflux in a nitrogen atmosphere while tributyltin hydride (1.05 eq) in toluene (2 ml) was added slowly over 3 h. The solution was then heated under reflux for a further 16 h before being concentrated again to dryness.

reactant | 1,6-anhydro-4-O-benzyl-2-deoxy-2-C-methyl-β-D-glucopyranose | 0.280 g | C(C1=CC=CC=C1)O[C@H]1[C@@H]([C@H]([C@H]2O[C@@H]1CO2)C)O | C14H18O4
reactant | sodium hydride | 1.2 eq | [H-].[Na+]
reactant | carbon disulphide | >10 eq | C(=S)=S | CS2
reactant | Methyl iodide | 5 eq | CI | CH3I
reactant | tributyltin hydride | 1.05 eq | C(CCC)[SnH](CCCC)CCCC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ether | 50 ml | CCOCC | C4H10O
product | 1,6-Anhydro-4-O-benzyl-2,3-dideoxy-2-C-methyl-β-D-ribo-hexopyranose | C(C1=CC=CC=C1)O[C@H]1C[C@H]([C@H]2O[C@@H]1CO2)C | C14H18O3
